US08563547B2
3-(3-(4-(trifluoromethoxy)phenoxy)azetidin-1-yl)-N—((S)-6,7-dihydro-2-nitro-5H-imidazo[2,1-b][1,3]oxazin-6-yl) propanamide (23)
Similar to the manipulation of example 22, with (S)-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine-6-amine (110 mg, 0.6 mmol) and 3-(3-(4-(trifluoromethoxy)phenoxy)azetidin-1-yl) propionyl chloride (242 mg, 0.72 mmol) as crude materials, title compound as 91 mg yellow powder was generated and yield was 32%.

reactant | 2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine-6-amine | 0.6 mmol, 110 mg | [N+](=O)([O-])C=1N=C2OCC(CN2C1)N | C6H8N4O3
reactant | 3-(3-(4-(trifluoromethoxy)phenoxy)azetidin-1-yl) propionyl chloride | 0.72 mmol, 242 mg | FC(OC1=CC=C(OC2CN(C2)CCC(=O)Cl)C=C1)(F)F | C13H13ClF3NO3
product | 3-(3-(4-(trifluoromethoxy)phenoxy)azetidin-1-yl)-N—((S)-6,7-dihydro-2-nitro-5H-imidazo[2,1-b][1,3]oxazin-6-yl) propanamide | yield was 32% | FC(OC1=CC=C(OC2CN(C2)CCC(=O)N[C@H]2CN3C(OC2)=NC(=C3)[N+](=O)[O-])C=C1)(F)F | C19H20F3N5O6
